US06759554B2
N-(4-Chlorophenyl)piperidine
CuI (10 mg, 0.05 mmol), N,N-diethylsalicylamide (39 mg, 0.20 mmol), 4-bromochlorobenzene (191 mg, 1.0 mmol) and K3PO4 (425 mg, 2.0 mmol) were put into a screw-capped test tube with a Teflon-lined septum. The tube was then evacuated and backfilled with argon (3 cycles). Piperidine (148 μL, 1.5 mmol) and DMF (0.5 mL) were added by syringes. The reaction mixture was stirred at 90° C. for 20 h. The reaction mixture was allowed to reach room temperature. Ethyl acetate (˜2 mL), water (˜10 mL), ammonium hydroxide (˜0.5 mL) and dodecane (227 μL) were added. The organic phase was analyzed by GC and GC-MS. A 75% conversion of 4-bromochlorobenzene and 29% calibrated GC yield was obtained.

reactant | N,N-diethylsalicylamide | 0.20 mmol, 39 mg | C(C)N(C(C=1C(O)=CC=CC1)=O)CC | C11H15NO2
reactant | 4-bromochlorobenzene | 1.0 mmol, 191 mg | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | K3PO4 | 2.0 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Piperidine | 1.5 mmol, 148 μL | N1CCCCC1 | C5H11N
reactant | ammonium hydroxide | ˜0.5 mL | [OH-].[NH4+]
reactant | dodecane | 227 μL | CCCCCCCCCCCC | C12H26
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | water | ˜10 mL | O | H2O
solvent | Ethyl acetate | ˜2 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorophenyl)piperidine | ClC1=CC=C(C=C1)N1CCCCC1 | C11H14ClN
